US05563268
6-(4-Cyanophenyl)-4-[(4-carboxybutyl)-aminocarbonyl]-2-methyl-(2H )-pyridazin-3-one
6-(4-cyanophenyl)-4-[(4-carboxybutyl )-aminocarbonyl]-(2H)-pyridazin-3-one Rf value: 0.30 (silica gel; methylene chloride/methanol=9:1)

reactant | 6-(4-cyanophenyl)-4-[(4-carboxybutyl )-aminocarbonyl]-(2H)-pyridazin-3-one | C(#N)C1=CC=C(C=C1)C=1C=C(C(NN1)=O)C(=O)NCCCCC(=O)O | C17H16N4O4
reactant | methylene chloride methanol | C(Cl)Cl.CO
product | 6-(4-Cyanophenyl)-4-[(4-carboxybutyl)-aminocarbonyl]-2-methyl-(2H )-pyridazin-3-one | C(#N)C1=CC=C(C=C1)C=1C=C(C(N(N1)C)=O)C(=O)NCCCCC(=O)O | C18H18N4O4
